US07598383B2
Step B: Preparation of 4-chloro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester:
Triethyl amine (7.07 mL, 50.7 mmol) was added to a suspension of 4-hydroxy-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester (10.0 g, 50.7 mmol) and POCl3 (27.85 mL, 304.3 mmol). After stirring 16 hours, the reaction mixture was concentrated under reduced pressure. The resulting residue was poured onto ice, carefully neutralized with saturated K2CO3 solution, and diluted with EtOAc. The layers were separated and the aqueous phase further extracted with EtOAc. The combined organic extracts were dried (MgSO4) and concentrated under reduced pressure to yield 7.3 g (67%) clean desired product.

reactant | Triethyl amine | 50.7 mmol, 7.07 mL | C(C)N(CC)CC | C6H15N
reactant | 4-hydroxy-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester | 50.7 mmol, 10.0 g | C(C)OC(=O)C1=CN(C(C=C1O)=O)C | C9H11NO4
reactant | POCl3 | 304.3 mmol, 27.85 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester | 7.3 g, 67% | C(C)OC(=O)C1=CN(C(C=C1Cl)=O)C | C9H10ClNO3
